2109-11-19 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2109-11-18**] 03:00 PM
   liver
   - Sent labs per Hepatology including ABG, found to be alkalotic
   - Pt had much abdominal pain overnight used morphine 2-4mg Q4H
   - Tox screen positive for cocaine and opiates
   - INR found to be 11 this AM, given 10mg of oral Vit K
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2109-11-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-19**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 98 (92 - 114) bpm
   BP: 119/69(81) {119/66(79) - 168/85(102)} mmHg
   RR: 21 (12 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    885 mL
                                                                    235 mL
   PO:
             TF:
   IVF:
                                                                    885 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    975 mL
   Urine:
                                                                  1,350 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -465 mL
                                                                   -740 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: 7.49/35/69/28/3
   Physical Examination
   General: Awake, alert, NAD, pleasant, appropriate, cooperative.
   HEENT: NCAT, PERRL, EOMI, no scleral icterus, MM dry, no lesions noted
   in OP
   Neck: supple, no significant JVD
   Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales
   Cardiac: tachycardic, hyperdynamic precordium, nl S1 S2, no murmurs,
   rubs or gallops appreciated
   Abdomen: soft, slightly tender in LUQ, LLQ and RLQ, exquisitely tender
   in RUQ, liver palpated below the costal margin, hypoactive bowel
   sounds.
   Extremities: No edema, 2+ radial, DP pulses b/l
   Skin: no rashes or lesions noted.
   Neurologic: No asterixis. Alert, oriented x 3. Able to relate history
   without difficulty. Cranial nerves II-XII intact. Normal bulk, strength
   and tone throughout. No abnormal movements noted. No deficits to light
   touch throughout. No nystagmus, dysarthria, intention or action tremor.
   2+ biceps, patellar reflexes and 2+ ankle jerks bilaterally. Plantar
   response was flexor bilaterally
   Labs / Radiology
   89 K/uL
   11.4 g/dL
   131 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   8 mg/dL
   104 mEq/L
   139 mEq/L
   32.2 %
   12.4 K/uL
        [image002.jpg]
                            [**2109-11-18**]  01:56 PM
                            [**2109-11-18**]  08:19 PM
                            [**2109-11-18**]  09:49 PM
                            [**2109-11-19**]  02:26 AM
   WBC
   19.3
   12.4
   Hct
   34.3
   32.2
   Plt
   106
   89
   Cr
   0.7
   0.7
   0.6
   TCO2
   27
   Glucose
   108
   189
   131
   Other labs: PT / PTT / INR:86.7/73.7/11.2, ALT / AST:6891/[**Numeric Identifier 3150**], Alk
   Phos / T Bili:81/5.3, Lactic Acid:4.5 mmol/L, Albumin:3.9 g/dL,
   LDH:2890 IU/L, Ca++:8.2 mg/dL, Mg++:2.7 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   32 yo woman with acute hepatitis and possibly developing fulminant
   hepatic failure.
   .
   <I>PLAN:</I>
   .
   <I>## Acute hepatitis/fulminant hepatic failure:</I> Pt mildly
   encephalopathic but without asterixis (Grade I hepatic encephalopthy).
   Ddx of her acute hepatitis is broad and includes viral etiology,
   toxins, vascular or, less likely, autoimmune. Nuva-ring likely slightly
   increases her risk of B-C syndrome, but her patent vessels on the OSH
   U/S with Dopplers argues strongly against a vascular cause of her
   hepatitis. She has not had any significant trauma or blood loss to
   suggest shock liver, although she did have what sounds like profound
   vomiting and diarrhea that could have led to significant volume
   depletion. Her ingestion of acetaminophen (2 grams per day, 14 grams
   over a period of a week by my calculation) does not seem to be enough
   to have caused such profound hepatitis. Likewise, her EtOH ingestion
   has been mild over the past week ([**3-26**] total drinks). I suppose the
   combination of the two could have been enough, though. Acute viral
   hepatitis (both A, which is more common, and B, which is a more common
   cause of fulminant hepatic failure), are also possible. Although she is
   in the right demographic for autoimmune hepatitis, this is an extremely
   rare cause of fulminant hepatic failure.
   - continue N-acetylcysteine
   - re-image with RUQ US with Dopplers
   - [**Hospital1 **] LFTs
   - Neuro checks
   - antibiotics per transplant surgery
   - consult Hepatology
   - consult transplant surgery
   - no evidence to start antiviral agents against Hepatitis B empirically
   - send viral serologies and/or viral loads for Hep A, B, C and E
   - send EBV, CMV titres and viral loads
   - consent for HIV for transplant w/u
   - send [**Doctor First Name **], anti-smooth muscle, ANCA
   - active T+S
   - no empiric FFP for now unless clinically bleeding or prior to
   procedure
   - consider placing central access now as coagulopathy may worsen before
   it gets better
   - SW c/s
   .
   <I>## Coagulopathy:</I> Likely related to hepatitis/hepatic failure
   - monitor
   - no empiric FFP for now unless clinically bleeding or prior to
   procedure
   .
   <I>## Leukocytosis:</I> Likely related to hepatitis/hepatic failure
   - monitor
   .
   <I>## Thrombocytopenia:</I> Likely related to hepatitis/hepatic failure
   - monitor
   .
   <I>## FEN/Lytes:</I> NPO for now, replete lytes prn
   .
   <I>## Prophylaxis:</I> Compression stockings
   .
   <I>## Code status:</I> FULL CODE
   .
   <I>## Dispo:</I> Pending resolution of sxs
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-11-18**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-19 08:58:00 Physician Attending Progress Note
Chief Complaint: fulminant hep failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   33 yr old with liver failure
   24 Hour Events:
 ULTRASOUND - At [**2109-11-18**] 03:00 PM
   liver
   LFTS and INR tredning up
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2109-11-19**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-19**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 103 (92 - 114) bpm
   BP: 117/61(75) {117/61(75) - 168/85(102)} mmHg
   RR: 15 (12 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    885 mL
                                                                    312 mL
   PO:
             TF:
   IVF:
                                                                    885 mL
                                                                    312 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                  1,675 mL
   Urine:
                                                                  1,350 mL
                                                                  1,675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -465 mL
                                                                 -1,363 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.49/35/69/28/3
   Physical Examination
   Gen: lying in bed, NAD, fatigued
   Eyes / Conjunctiva: PERRL, mild scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: ruq and epigastrum
   Extremities: warm no edema
   Neurologic: Attentive, Follows simple commands, new mild asterixis
   Labs / Radiology
   11.4 g/dL
   89 K/uL
   131 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   8 mg/dL
   104 mEq/L
   139 mEq/L
   32.2 %
   12.4 K/uL
        [image002.jpg]
                            [**2109-11-18**]  01:56 PM
                            [**2109-11-18**]  08:19 PM
                            [**2109-11-18**]  09:49 PM
                            [**2109-11-19**]  02:26 AM
   WBC
   19.3
   12.4
   Hct
   34.3
   32.2
   Plt
   106
   89
   Cr
   0.7
   0.7
   0.6
   TCO2
   27
   Glucose
   108
   189
   131
   Other labs: PT / PTT / INR:86.7/73.7/11.2, ALT / AST:6891/[**Numeric Identifier 3150**], Alk
   Phos / T Bili:81/5.3, Lactic Acid:4.5 mmol/L, Albumin:3.9 g/dL,
   LDH:2890 IU/L, Ca++:8.2 mg/dL, Mg++:2.7 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   33 yr old with fulminant hepatic failure
   1.       Hepatic failure: While her ETOH and Tylenol could be
   interacting to cause FHF, new data about about cocaine adds ischemia to
   the list. Imaging to assess for vascular shows patent. Also checking
   serologies for viral hepatitis and will send for autoimmune.
   Her escalating transaminitis and encephalopathy are extremely
   concerning and ongoing eval for Liver Transplant is underway.
   For now will also continue NAC for full course. [**Hospital1 **] LFTs and inr need
   to be trended.  Po Vit K for inr and will likely need FFP for access
   soon.
   Needs q1 hour Neuro checks, q2 hour glucose checks.
   Low threshold to place CVL early though has adequate access now. Low
   threshold for elective intubation to manage should she be listed
 will
   need ICP monitor .
   Transplant surgery and Hepatology have initiated eval. To discuss for
   Listing this afternoon.
   Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-11-18**] 01:05 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  with patient will try to meet with her HCP sister
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2109-11-19 09:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2109-11-18**] 03:00 PM
   liver
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2109-11-19**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-19**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 103 (92 - 114) bpm
   BP: 117/61(75) {117/61(75) - 168/85(102)} mmHg
   RR: 15 (12 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    885 mL
                                                                    328 mL
   PO:
             TF:
   IVF:
                                                                    885 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                  1,675 mL
   Urine:
                                                                  1,350 mL
                                                                  1,675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -465 mL
                                                                 -1,347 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.49/35/69/28/3
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   89 K/uL
   11.4 g/dL
   131 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   8 mg/dL
   104 mEq/L
   139 mEq/L
   32.2 %
   12.4 K/uL
        [image002.jpg]
                            [**2109-11-18**]  01:56 PM
                            [**2109-11-18**]  08:19 PM
                            [**2109-11-18**]  09:49 PM
                            [**2109-11-19**]  02:26 AM
   WBC
   19.3
   12.4
   Hct
   34.3
   32.2
   Plt
   106
   89
   Cr
   0.7
   0.7
   0.6
   TCO2
   27
   Glucose
   108
   189
   131
   Other labs: PT / PTT / INR:86.7/73.7/11.2, ALT / AST:6891/[**Numeric Identifier 3150**], Alk
   Phos / T Bili:81/5.3, Lactic Acid:4.5 mmol/L, Albumin:3.9 g/dL,
   LDH:2890 IU/L, Ca++:8.2 mg/dL, Mg++:2.7 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-11-18**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-20 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2109-11-19**] 10:40 AM
 INVASIVE VENTILATION - START [**2109-11-20**] 01:30 AM
   Yesterday the patient received 2 units of FFP secondary to an elevated
   INR of 15  and in preparation for intubation.   Her INR appropriately
   came down to 4.4.  She then received another 2 units of FFP.  She then
   started to become more agitated developing into more encephalopathic.
   She was unable to cooperate with exams.  She was put in four point
   restraints and then intubated.  After which she received another 2
   units of FFP.
   Allergies:
   Codeine Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-20**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-20**] 06:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2109-11-20**] 12:03 AM
   Acetylcystine Dextrose 50% - [**2109-11-20**] 12:12 AM
   Haloperidol (Haldol) - [**2109-11-20**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-20**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 94 (94 - 174) bpm
   BP: 116/58(71) {105/40(55) - 142/87(98)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                  3,840 mL
                                                                  1,277 mL
   PO:
                                                                    200 mL
           TF:
   IVF:
                                                                  2,587 mL
                                                                    683 mL
   Blood products:
                                                                  1,053 mL
                                                                    581 mL
   Total out:
                                                                  4,545 mL
                                                                    815 mL
   Urine:
                                                                  4,545 mL
                                                                    815 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -705 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 36
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: ///28/
   Ve: 7.4 L/min
   Physical Examination
   General: intubated, sedated.
   HEENT: NCAT, pinpoint pupils reactive and equal, conjunctival
   hemorrhages, scleral icterus, MM dry, dried blood in oropharynx
   Neck: supple, no significant JVD
   Pulmonary: Lungs CTA bilaterally, coarse breath sounds bilaterally no
   wheezes, rhonchi or rales
   Cardiac: tachycardic, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, ND, hypoactive bowel sounds.
   Extremities: No edema, 2+ radial, DP pulses b/l
   Skin: no rashes or lesions noted.
   Neurologic: Unable to assess secondary to sedation
   Labs / Radiology
   82 K/uL
   10.5 g/dL
   99 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.4 mEq/L
   6 mg/dL
   108 mEq/L
   145 mEq/L
   28.7 %
   8.7 K/uL
        [image002.jpg]
   ALT 4590
 7885
 2691
 6891
   AST [**Numeric Identifier 3175**]
 [**Numeric Identifier 3176**]
 1331
 [**Numeric Identifier 3150**]
   LDH [**2002**]
 7375
 9155
   T Bili 5
 5.4
 5.3
                            [**2109-11-18**]  01:56 PM
                            [**2109-11-18**]  08:19 PM
                            [**2109-11-18**]  09:49 PM
                            [**2109-11-19**]  02:26 AM
                            [**2109-11-19**]  09:24 AM
                            [**2109-11-19**]  02:24 PM
                            [**2109-11-20**]  02:15 AM
   WBC
   19.3
   12.4
   12.4
   8.7
   Hct
   34.3
   32.2
   33.7
   28.7
   Plt
   106
   89
   93
   82
   Cr
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   TCO2
   27
   Glucose
   108
   189
   131
   95
   94
   99
   Other labs: PT / PTT / INR:27.5/62.2/2.8, CK / CKMB / Troponin-T:99//,
   ALT / AST:4590/4998, Alk Phos / T Bili:101/5.0, Lactic Acid:4.5 mmol/L,
   Albumin:3.3 g/dL, LDH:[**2002**] IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.3 mg/dL
   Assessment and Plan
   32 yo woman with acute hepatitis and fulminant hepatic failure.
   .
   # Acute hepatitis/fulminant hepatic failure:  With more information
   from the patient
s boyfriend, the patient is reported to have taken a
   large quantity of Tylenol prior to presentation.   Most likely
   secondary to ischemic event from cocaine use and alcohol and Tylenol
   injestion.  The patient required intubation yesterday secondary to
   worsening encephalopathy.  The patient has been deemed not a candidate
   for transplant by surgery given her current alcohol and cocaine use.
   Will continue to follow hepatology recommendations.  Will continue to
   follow serologies.
   - intubated for airway protection, will attempt to wean to PSV later
   today.
   - continue to check q6H LFTs and coags
   - Hep A positive, Hep A IgM pending, Hep B negative , Hep C negative,
   CMV negative, HIV negative, [**Doctor First Name **] negative, anti-smooth muscle negative.
   EBV, Hep E, HSV, ceruloplasmin still pending
   - active T+S
   - will continue empiric antibiotics of vancomycin and zosyn (day 2) per
   hepatology for grade 3 encephalopathy
   - continue acetylcystine for Tylenol ingestion
   - continue FS BG QID and replete for hypoglycemia, will place OGT today
   and start tube feeds for nutrition.
   - continue to monitor for evidence of cerebral edema with frequent
   neurochecks, monitoring for bradycardia and hypertension, and if any
   evidence of change will start manitol.
   .
   #  Coagulopathy:  Secondary to hepatic failure.  Worsening INR up to 15
   yesterday.  The patient received Vit K 10mg PO yesterday with FFP x
   6units with a decrease in her INR to 2.3.
   - continue to monitor closely with q6H labs
   - will give FFP only for very elevated INR to achieve INR between [**1-22**]
   per hepatology
   .
   # Leukocytosis: Likely related to hepatitis/hepatic failure, continues
   to trend down
   -          monitor closely
   -          on prophylactic antibiotics of vancomycin and zosyn
   .
   # Thrombocytopenia: Likely related to hepatitis/hepatic failure,
   trending down but remaining stable
   - monitor closely given worsening coagulopathy
   .
   FEN/Lytes: NPO, replete electrolytes as needed, will place OGT and
   start tube feeds today
   .
   Prophylaxis: Compression stockings
   .
   Code status: FULL CODE
   .
   Dispo: MICU
 HYPOGLYCEMIA
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEPATIC ENCEPHALOPATHY
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   ICU Care
   Nutrition:
   Glycemic Control:  FS BG QID
   Lines: 3 PIVs
   20 Gauge - [**2109-11-20**] 01:04 AM
   Prophylaxis:
   DVT:  Compression Stockings
   Stress ulcer:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: MICU

2109-11-20 08:54:00 Physician Attending Progress Note
Chief Complaint: fulminant hepatic failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   33 yr old with FHF in setting of tylenol, alcohol, and cocaine abuse
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2109-11-19**] 10:40 AM
 INVASIVE VENTILATION - START [**2109-11-20**] 01:30 AM
   Was not listed for liver transplant in light of severe and active
   substance abuse.
   Transferred from SICU to MICU
   Progressive encephalopathy
   Intubated for obtundation
   Started on Vanco and ZOsyn for Stage 3 encephalopathy
   Given 6 units FFP for coagulopathy
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-20**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-20**] 06:00 AM
   Infusions:
   Propofol - 13 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2109-11-20**] 12:03 AM
   Dextrose 50% - [**2109-11-20**] 12:12 AM
   Haloperidol (Haldol) - [**2109-11-20**] 12:27 AM
   Other medications:
   NAC
   Kphos
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-20**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 98 (94 - 174) bpm
   BP: 113/55(68) {105/40(55) - 142/87(98)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                  3,840 mL
                                                                  1,453 mL
   PO:
                                                                    200 mL
           TF:
   IVF:
                                                                  2,587 mL
                                                                    860 mL
   Blood products:
                                                                  1,053 mL
                                                                    581 mL
   Total out:
                                                                  4,545 mL
                                                                    855 mL
   Urine:
                                                                  4,545 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -705 mL
                                                                    598 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 36
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: ///28/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: pupils pinpint and min reactive
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement minimal spontaneous
   Labs / Radiology
   10.5 g/dL
   82 K/uL
   99 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.4 mEq/L
   6 mg/dL
   108 mEq/L
   145 mEq/L
   28.7 %
   8.7 K/uL
        [image002.jpg]
                            [**2109-11-18**]  01:56 PM
                            [**2109-11-18**]  08:19 PM
                            [**2109-11-18**]  09:49 PM
                            [**2109-11-19**]  02:26 AM
                            [**2109-11-19**]  09:24 AM
                            [**2109-11-19**]  02:24 PM
                            [**2109-11-20**]  02:15 AM
   WBC
   19.3
   12.4
   12.4
   8.7
   Hct
   34.3
   32.2
   33.7
   28.7
   Plt
   106
   89
   93
   82
   Cr
   0.7
   0.7
   0.6
   0.7
   0.7
   0.6
   TCO2
   27
   Glucose
   108
   189
   131
   95
   94
   99
   Other labs: PT / PTT / INR:27.5/62.2/2.8, CK / CKMB / Troponin-T:99//,
   ALT / AST:4590/4998, Alk Phos / T Bili:101/5.0, Lactic Acid:4.5 mmol/L,
   Albumin:3.3 g/dL, LDH:[**2002**] IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.3 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEPATIC ENCEPHALOPATHY
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   33 yr old with fulminant hepatic failure
   1.       Hepatic failure: in setting of massive tylenol ingestion on
   top of heavy ETOH and cocaine. Serologies neg to date except [**Last Name (un) **] IGG-
   awaiting IgM. Her transamines and bili are stable to slightly improved.
           For now will  mus provide supportive care.
                Continue NAC for full course.
               QID LFTs and inr need to be trended.
               Encephalopathy are extremely concerning at high risk for
   cerebral edema.  Q1 hour neuro checks. Mannitol at bedside stat head CT
   for any changes after Mannitol.
   2.       Resp Failure: for airway protection, currently on CMV and will
   try for PSV later today.
   3.       Tachycardia: DDx pain versus low volumes
 will place CVL to
   assess CVP and guide fluid management
   Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition: start TF
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-11-20**] 01:04 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  sister and boyfriend
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2109-11-21 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2109-11-20**] 02:00 PM
   [**2109-11-20**]:
   - CVL placed after received 2 more units of FFP
   - Phos 0.6 overnight (repleted)
   - Found to have bilateral lower extremity rhythmic movement q10-20
   seconds.
   - Given 25g of Mannitol empirically for possible cerebral edema
   - Stat CT Head w/o contrast: without evidence for cerebral edema or
   bleed.
   - Hypokalemic to 2.6. Repleted
   This morning she was switched to PSV after being on AC most of the
   night.  She was breathing at a rate of 30 and her HR went up to 130
   Her propofol was increased.
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Acyclovir - [**2109-11-21**] 12:30 AM
   Vancomycin - [**2109-11-21**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-21**] 05:37 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2109-11-20**] 02:30 PM
   Pantoprazole (Protonix) - [**2109-11-20**] 08:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-21**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 100 (94 - 128) bpm
   BP: 110/44(60) {104/37(53) - 142/66(81)} mmHg
   RR: 20 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 7 (7 - 10)mmHg
   Total In:
                                                                  4,826 mL
                                                                  2,296 mL
   PO:
   TF:
                                                                     60 mL
                                                                     67 mL
   IVF:
                                                                  3,314 mL
                                                                  2,049 mL
   Blood products:
                                                                  1,185 mL
   Total out:
                                                                  1,990 mL
                                                                    515 mL
   Urine:
                                                                  1,930 mL
                                                                    515 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  2,836 mL
                                                                  1,781 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 601 (438 - 601) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: 7.55/33/176/29/7
   Ve: 9.2 L/min
   PaO2 / FiO2: 440
   Physical Examination
   General: intubated, sedated.
   HEENT: NCAT, pupils reactive and equal, conjunctival hemorrhages,
   scleral icterus, MM dry
   Neck: supple, no significant JVD
   Pulmonary: Lungs CTA bilaterally, coarse breath sounds bilaterally no
   wheezes, rhonchi or rales
   Cardiac: tachycardic, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, ND, hypoactive bowel sounds.
   Extremities: No edema, 2+ radial, DP pulses b/l
   Skin: no rashes or lesions noted.
   Neurologic: Unable to assess secondary to sedation
   Labs / Radiology
   102 K/uL
   9.6 g/dL
   199 mg/dL
   0.7 mg/dL
   29 mEq/L
   2.6 mEq/L
   8 mg/dL
   111 mEq/L
   146 mEq/L
   26.8 %
   8.0 K/uL
        [image002.jpg]
                            [**2109-11-18**]  09:49 PM
                            [**2109-11-19**]  02:26 AM
                            [**2109-11-19**]  09:24 AM
                            [**2109-11-19**]  02:24 PM
                            [**2109-11-20**]  02:15 AM
                            [**2109-11-20**]  08:21 AM
                            [**2109-11-20**]  01:55 PM
                            [**2109-11-20**]  08:16 PM
                             [**2109-11-21**]  02:51 AM
                             [**2109-11-21**]  03:38 AM
   WBC
   12.4
   12.4
   8.7
   6.5
   8.0
   Hct
   32.2
   33.7
   28.7
   28.2
   26.8
   Plt
   89
   93
   82
   89
   102
   Cr
   0.6
   0.7
   0.7
   0.6
   0.6
   0.8
   0.7
   0.7
   TCO2
   27
   30
   Glucose
   131
   95
   94
   99
   75
   54
   147
   199
   Other labs: PT / PTT / INR:39.2/55.6/4.2, CK / CKMB / Troponin-T:99//,
   ALT / AST:2659/1178, Alk Phos / T Bili:93/5.5, Lactic Acid:2.6 mmol/L,
   Albumin:3.3 g/dL, LDH:315 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:1.1
   mg/dL
   Assessment and Plan
   32 yo woman with acute hepatitis and fulminant hepatic failure.
   .
   # Acute hepatitis/fulminant hepatic failure:  With more information
   from the patient
s boyfriend, the patient is reported to have taken a
   large quantity of Tylenol prior to presentation.   Most likely
   secondary to ischemic event from cocaine use and alcohol and Tylenol
   injestion.  The patient required intubation yesterday secondary to
   worsening encephalopathy.  The patient has been deemed not a candidate
   for transplant by surgery given her current alcohol and cocaine use.
   Will continue to follow hepatology recommendations.  Will continue to
   follow serologies.
   - intubated for airway protection, tolerating PSV, currently on
   propofol for sedation, unable to use anything else given liver failure
   and decreased excretion
   - pt was alkalotic yesterday, will recheck ABG today to confirm
   - continue to check q6H LFTs and coags
   - Hep A positive, Hep A IgM negative, Hep B negative , Hep C negative,
   CMV negative, HIV negative, [**Doctor First Name **] negative, anti-smooth muscle negative,
   EBV positive but IgM negative.  Hep E, HSV, ceruloplasmin still pending
   - active T+S
   - will continue empiric antibiotics of vancomycin and zosyn (day 3) per
   hepatology for grade 3 encephalopathy
   - continue acetylcystine for Tylenol ingestion
   - continue FS BG QID and replete for hypoglycemia, on tube feeds for
   nutrition.
   - continue to monitor for evidence of cerebral edema with frequent
   neurochecks, monitoring for bradycardia and hypertension, and if any
   evidence of change will start manitol.  As there was concern overnight
   of jerking movements, the patient will have an EEG today to rule out
   seizure activity
   .
   #  Coagulopathy:  Secondary to hepatic failure.  INR peaked at 15.  The
   patient received Vit K 10mg PO X1 with total of FFP x 8units with
   initial decrease in INR and up to 4.2 today.
   - continue to monitor closely with q6H labs
   - will give FFP only for very elevated INR or if procedure planned.
   .
   # Leukocytosis: Likely related to hepatitis/hepatic failure, trending
   down
   -          monitor closely
   -          on prophylactic antibiotics of vancomycin and zosyn
   .
   # Thrombocytopenia: Likely related to hepatitis/hepatic failure,
   trending up today
    - monitor closely given worsening coagulopathy
   .
   FEN/Lytes: tube feeds, replete electrolytes as needed
   .
   Prophylaxis: Compression stockings
   .
   Code status: FULL CODE
   .
   Dispo: MICU
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOGLYCEMIA
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEPATIC ENCEPHALOPATHY
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2109-11-20**] 06:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-11-20**] 01:04 AM
   Multi Lumen - [**2109-11-20**] 02:00 PM
   Prophylaxis:
   DVT:  Compression stockings
   Stress ulcer:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2109-11-21 10:27:00 Physician Attending Progress Note
Chief Complaint: fulminant hepatic failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2109-11-20**] 02:00 PM
   Strated on ACyclovir for rule out HSV
   Had jerking movements of legs, given 25 grams Mannitol and went for
   head CT - no cerebral edema
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-21**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-21**] 05:37 AM
   Acyclovir - [**2109-11-21**] 08:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2109-11-20**] 02:30 PM
   Pantoprazole (Protonix) - [**2109-11-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Neurologic: Seizure
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2109-11-21**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 98 (94 - 130) bpm
   BP: 110/42(59) {104/37(53) - 142/76(86)} mmHg
   RR: 22 (17 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
   CVP: 5 (5 - 10)mmHg
   Total In:
                                                                  4,826 mL
                                                                  3,027 mL
   PO:
   TF:
                                                                     60 mL
                                                                    104 mL
   IVF:
                                                                  3,314 mL
                                                                  2,723 mL
   Blood products:
                                                                  1,185 mL
   Total out:
                                                                  1,990 mL
                                                                    755 mL
   Urine:
                                                                  1,930 mL
                                                                    755 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  2,836 mL
                                                                  2,272 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 480 (438 - 601) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.55/33/176/26/7
   Ve: 11.2 L/min
   PaO2 / FiO2: 440
   Physical Examination
   Gen intubated and sedated
   HEENT ETT and OGT
   CV tahy RR
   Chest CTA
   Abd distended + BS
   Ext 2= edema
   Neuro: sedated, responsive to tactile stim, pupils pinpoint but
   reactive
   Labs / Radiology
   9.6 g/dL
   102 K/uL
   125 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.6 mEq/L
   7 mg/dL
   113 mEq/L
   146 mEq/L
   26.8 %
   8.0 K/uL
        [image002.jpg]
                            [**2109-11-19**]  02:26 AM
                            [**2109-11-19**]  09:24 AM
                            [**2109-11-19**]  02:24 PM
                            [**2109-11-20**]  02:15 AM
                            [**2109-11-20**]  08:21 AM
                            [**2109-11-20**]  01:55 PM
                            [**2109-11-20**]  08:16 PM
                             [**2109-11-21**]  02:51 AM
                             [**2109-11-21**]  03:38 AM
                             [**2109-11-21**]  07:53 AM
   WBC
   12.4
   12.4
   8.7
   6.5
   8.0
   Hct
   32.2
   33.7
   28.7
   28.2
   26.8
   Plt
   89
   93
   82
   89
   102
   Cr
   0.6
   0.7
   0.7
   0.6
   0.6
   0.8
   0.7
   0.7
   0.7
   TCO2
   30
   Glucose
   131
   95
   94
   99
   75
   54
   147
   199
   125
   Other labs: PT / PTT / INR:39.2/55.6/4.2, CK / CKMB / Troponin-T:99//,
   ALT / AST:2659/1178, Alk Phos / T Bili:93/5.5, Lactic Acid:2.6 mmol/L,
   Albumin:3.3 g/dL, LDH:315 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:1.0
   mg/dL
   Hep a IgM neg EBV IgM neg
   CXR: ETT in good position, min interstitial edema, R IJ in SVC
   Head CT: prelim no cerebral edema, no bleed
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOGLYCEMIA
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEPATIC ENCEPHALOPATHY
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   33 yr old with fulminant hepatic failure
   1.       Hepatic failure: in setting of massive tylenol ingestion on
   top of heavy ETOH and cocaine. Serologies neg to date Her transamines
   and bili are stable to slightly improved.
           For now will  provide supportive care.
                Continue NAC for full course.
                QID LFTs and inr need to be trended.
                Encephalopathy -extremely concerning at high risk for
   cerebral edema.  Q1 hour neuro checks.
                Mannitol at bedside stat head CT for question
                Rhythmic jerking could be myoclonus versus seizure
 order
   EEG. Speak with Heptology about empiric anti epileptics. Follow up
   final head CT read.
   2.       Resp Failure: for airway protection, currently on PSV,
   actually has a mild resp and existing metabolic alkosis. Drop PSV 5/5.
   3.       Metabolic Alkosis: check urine lytes and OSM, trend pH, review
   med list. ? Mannitol related.
   4.       Tachycardia: DDx pain, agitation, toxins
 better today, watch
   UOP and maintain CVP 8-12
   Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition:  Nutren Pulmonary (Full) - [**2109-11-20**] 06:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-11-20**] 01:04 AM
   Multi Lumen - [**2109-11-20**] 02:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP: chlor HOB
   Communication:  with sister at bedside
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2109-11-22 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ABG during the afternoon showed alkalosis, likely from over
   breathing.  Repeated ABG at 11pm continued to show alkalosis.  Unclear
   etiology, may be secondary to mannitol or overbreathing on the vent
   - T bili rising up to 7.0
   - Repleted K with 20mEq and Phos 15mEq
   Currently the patient is sedated, being set up for EEG to monitor for
   seizure activity.
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Acyclovir - [**2109-11-21**] 04:00 PM
   Vancomycin - [**2109-11-22**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-22**] 05:42 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-11-21**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-22**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 117 (90 - 117) bpm
   BP: 139/70(88) {108/42(59) - 139/76(88)} mmHg
   RR: 32 (21 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 8 (5 - 8)mmHg
   Total In:
                                                                  5,251 mL
                                                                  1,738 mL
   PO:
   TF:
                                                                    265 mL
                                                                    191 mL
   IVF:
                                                                  4,606 mL
                                                                  1,097 mL
   Blood products:
   Total out:
                                                                  1,385 mL
                                                                    305 mL
   Urine:
                                                                  1,385 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,866 mL
                                                                  1,433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 394 (350 - 480) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.52/29/194/24/2
   Ve: 10.2 L/min
   PaO2 / FiO2: 485
   Physical Examination
   General: intubated, sedated.
   HEENT: NCAT, pupils reactive and equal, conjunctival hemorrhages,
   scleral icterus, MM dry
   Neck: supple, no significant JVD
   Pulmonary: Lungs CTA bilaterally, coarse breath sounds bilaterally no
   wheezes, rhonchi or rales
   Cardiac: tachycardic, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, ND, hypoactive bowel sounds.
   Extremities: No edema, 2+ radial, DP pulses b/l
   Skin: no rashes or lesions noted.
   Neurologic: Unable to assess secondary to sedation
   Labs / Radiology
   107 K/uL
   9.7 g/dL
   91 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   8 mg/dL
   116 mEq/L
   146 mEq/L
   27.2 %
   6.4 K/uL
        [image002.jpg]
                            [**2109-11-20**]  01:55 PM
                            [**2109-11-20**]  08:16 PM
                             [**2109-11-21**]  02:51 AM
                             [**2109-11-21**]  03:38 AM
                             [**2109-11-21**]  07:53 AM
                             [**2109-11-21**]  12:34 PM
                             [**2109-11-21**]  03:16 PM
                             [**2109-11-21**]  09:38 PM
                             [**2109-11-21**]  11:15 PM
                             [**2109-11-22**]  02:49 AM
   WBC
   6.5
   8.0
   5.9
   6.4
   Hct
   28.2
   26.8
   27.1
   27.2
   Plt
   89
   102
   114
   107
   Cr
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   30
   27
   24
   Glucose
   54
   147
   199
   125
   100
   104
   91
   Other labs: PT / PTT / INR:40.7/56.1/4.4, CK / CKMB / Troponin-T:99//,
   ALT / AST:[**2115**]/387, Alk Phos / T Bili:88/7.3, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:216 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOGLYCEMIA
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEPATIC ENCEPHALOPATHY
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   32 yo woman with acute hepatitis and fulminant hepatic failure.
   .
   # Acute hepatitis/fulminant hepatic failure:  With more information
   from the patient
s boyfriend, the patient is reported to have taken a
   large quantity of Tylenol prior to presentation.   Most likely
   secondary to ischemic event from cocaine use and alcohol and Tylenol
   ingestion.  The patient required intubation secondary to worsening
   encephalopathy.  The patient has been deemed not a candidate for
   transplant by surgery given her current alcohol and cocaine use.  Will
   continue to follow hepatology recommendations.  Will continue to follow
   serologies.
   - intubated for airway protection, tolerating PSV, currently on
   propofol for sedation, unable to use anything else given liver failure
   and decreased excretion, will attempt to decrease sedation today and
   assess neurological status
   - pt continues to be alkalotic, with two repeat ABGs yesterday unclear
   etiology may be secondary to overbreathing
   - continue to check q6H LFTs and coags, trending down
   - Hep A positive, Hep A IgM negative, Hep B negative , Hep C negative,
   CMV negative, HIV negative, [**Doctor First Name **] negative, anti-smooth muscle negative,
   EBV positive but IgM negative.  Hep E, HSV, ceruloplasmin still pending
   - active T+S
   - will continue empiric antibiotics of vancomycin and zosyn (day 4) per
   hepatology for grade 3 encephalopathy, plan to discontinue when we
   extubate the patient
   - continue acyclovir for empiric coverage of HSV until serologies
   return
   - continue acetylcystine for Tylenol ingestion, will change rate to
   600mg/hr, will plan to discontinue when INR <2, and LFT
s <1000
   - continue FS BG QID and replete for hypoglycemia, on tube feeds for
   nutrition.
   - continue to monitor for evidence of cerebral edema with frequent
   neurochecks, monitoring for bradycardia and hypertension, and if any
   evidence of change will start mannitol.  As there was concern overnight
   of jerking movements, the patient will have an EEG this AM to rule out
   seizure activity
   .
   #  Coagulopathy:  Secondary to hepatic failure.  INR peaked at 15.  The
   patient received Vit K 10mg PO X1 with total of FFP x 8units with
   initial decrease in INR and up to 4.2 today.
   - continue to monitor closely with q6H labs
   - will give FFP only for very elevated INR or if procedure planned.
   .
   # Leukocytosis: Likely related to hepatitis/hepatic failure, trending
   down
   -          monitor closely
   -          on prophylactic antibiotics of vancomycin and zosyn
   .
   # Thrombocytopenia: Likely related to hepatitis/hepatic failure, stable
   today
    - monitor closely given worsening coagulopathy
   .
   FEN/Lytes: tube feeds, replete electrolytes as needed
   .
   Prophylaxis: Compression stockings
   .
   Code status: FULL CODE
   .
   Dispo: MICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2109-11-22**] 06:30 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-11-20**] 02:00 PM
   20 Gauge - [**2109-11-21**] 08:00 AM
   Prophylaxis:
   DVT:  Compression stockings
   Stress ulcer:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2109-11-22 10:09:00 Physician Attending Progress Note
Chief Complaint: fulminant hepatic failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hemodynamics stable
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-22**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-22**] 05:42 AM
   Acyclovir - [**2109-11-22**] 08:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-11-21**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-22**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 122 (90 - 122) bpm
   BP: 154/68(91) {108/46(61) - 154/72(91)} mmHg
   RR: 26 (21 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
   CVP: 8 (7 - 8)mmHg
   Total In:
                                                                  5,251 mL
                                                                  2,168 mL
   PO:
   TF:
                                                                    265 mL
                                                                    304 mL
   IVF:
                                                                  4,606 mL
                                                                  1,364 mL
   Blood products:
   Total out:
                                                                  1,385 mL
                                                                    487 mL
   Urine:
                                                                  1,385 mL
                                                                    487 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,866 mL
                                                                  1,681 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 430 (350 - 459) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.52/29/194/24/2
   Ve: 11.2 L/min
   PaO2 / FiO2: 485
   Physical Examination
   Gen intubated and sedated
   HEENT ETT and OGT
   CV tahy RR
   Chest CTA
   Abd distended + BS
   Ext - edema
   Neuro: sedated, responsive to tactile stim, pupils pinpoint but
   reactive
   Labs / Radiology
   9.7 g/dL
   107 K/uL
   91 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.6 mEq/L
   8 mg/dL
   116 mEq/L
   146 mEq/L
   27.2 %
   6.4 K/uL
        [image002.jpg]
                            [**2109-11-20**]  01:55 PM
                            [**2109-11-20**]  08:16 PM
                             [**2109-11-21**]  02:51 AM
                             [**2109-11-21**]  03:38 AM
                             [**2109-11-21**]  07:53 AM
                             [**2109-11-21**]  12:34 PM
                             [**2109-11-21**]  03:16 PM
                             [**2109-11-21**]  09:38 PM
                             [**2109-11-21**]  11:15 PM
                             [**2109-11-22**]  02:49 AM
   WBC
   6.5
   8.0
   5.9
   6.4
   Hct
   28.2
   26.8
   27.1
   27.2
   Plt
   89
   102
   114
   107
   Cr
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   30
   27
   24
   Glucose
   54
   147
   199
   125
   100
   104
   91
   Other labs: PT / PTT / INR:40.7/56.1/4.4, CK / CKMB / Troponin-T:99//,
   ALT / AST:[**2115**]/387, Alk Phos / T Bili:88/7.3, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:216 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOGLYCEMIA
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEPATIC ENCEPHALOPATHY
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   33 yr old with fulminant hepatic failure
   1.       Hepatic failure: in setting of massive tylenol ingestion on
   top of heavy ETOH and cocaine. Serologies neg to date Her transamines
   and bili are stable to slightly improved.
           For now will  provide supportive care.
                Continue NAC for full course
 change to maintainance 600
   mg/hr
                [**Hospital1 **] LFTs and inr need to be trended.
                Encephalopathy -extremely concerning at high risk for
   cerebral edema.  Q1 hour neuro checks.
                Mannitol at bedside stat head CT for question
                Rhythmic jerking could be myoclonus versus seizure
   this AM. Follow up final read
   2.       Resp Failure: for airway protection, currently on PSV,  today
   actually has a mild resp and existing metabolic alkalosis.
   Drop PSV 5/5.
   3.       Metabolic Alkosis: check urine lytes and OSM, trend pH, review
   med list. ? Mannitol related.
   4.       Tachycardia: DDx pain, agitation, toxins
 better today, watch
   UOP and maintain CVP 8-12
   Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2109-11-22**] 06:30 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-11-20**] 02:00 PM
   20 Gauge - [**2109-11-21**] 08:00 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with sister HCP
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2109-11-23 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2109-11-22**] 08:15 AM
 BLOOD CULTURED - At [**2109-11-22**] 11:42 PM
   2 sets sent, one from RIJ, second from L peripheral
 URINE CULTURE - At [**2109-11-22**] 11:42 PM
 FEVER - 101.2
F - [**2109-11-23**] 12:00 AM
   Cultured O/N
   Sedation dc'd [**2108-11-21**]
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Acyclovir - [**2109-11-22**] 11:45 PM
   Vancomycin - [**2109-11-23**] 03:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-23**] 05:49 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-11-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-23**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38
C (100.4
   HR: 109 (99 - 122) bpm
   BP: 167/90(108) {130/63(77) - 171/90(108)} mmHg
   RR: 23 (21 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 9 (6 - 9)mmHg
   Total In:
                                                                  4,012 mL
                                                                  1,142 mL
   PO:
   TF:
                                                                    861 mL
                                                                    297 mL
   IVF:
                                                                  2,242 mL
                                                                    665 mL
   Blood products:
   Total out:
                                                                  1,107 mL
                                                                    440 mL
   Urine:
                                                                  1,107 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,905 mL
                                                                    702 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 414 (414 - 460) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 13.7 L/min
   Physical Examination
   General: intubated, sedated.
   HEENT: NCAT, pupils reactive and equal, conjunctival hemorrhages,
   scleral icterus, MM dry
   Neck: supple, no significant JVD
   Pulmonary: Lungs CTA bilaterally, coarse breath sounds bilaterally no
   wheezes, rhonchi or rales
   Cardiac: tachycardic, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, ND, hypoactive bowel sounds.
   Extremities: No edema, 2+ radial, DP pulses b/l
   Skin: no rashes or lesions noted.
   Neurologic: Unable to assess secondary to sedation
   Labs / Radiology
   107 K/uL
   10.1 g/dL
   117 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   9 mg/dL
   117 mEq/L
   144 mEq/L
   28.0 %
   10.1 K/uL
        [image002.jpg]
   BCx, UCx [**2109-11-22**] pending
                             [**2109-11-21**]  02:51 AM
                             [**2109-11-21**]  03:38 AM
                             [**2109-11-21**]  07:53 AM
                             [**2109-11-21**]  12:34 PM
                             [**2109-11-21**]  03:16 PM
                             [**2109-11-21**]  09:38 PM
                             [**2109-11-21**]  11:15 PM
                             [**2109-11-22**]  02:49 AM
                             [**2109-11-22**]  05:09 PM
                             [**2109-11-23**]  03:00 AM
   WBC
   8.0
   5.9
   6.4
   8.1
   10.1
   Hct
   26.8
   27.1
   27.2
   28.8
   28.0
   Plt
   102
   114
   107
   106
   107
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.8
   TCO2
   30
   27
   24
   Glucose
   199
   125
   100
   104
   91
   136
   117
   Other labs: PT / PTT / INR:37.7/62.8/4.0, CK / CKMB / Troponin-T:99//,
   ALT / AST:1566/174, Alk Phos / T Bili:97/9.5, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:216 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   32 yo woman with acute hepatitis and fulminant hepatic failure.
   .
   # Acute hepatitis/fulminant hepatic failure:  With more information
   from the patient
s boyfriend, the patient is reported to have taken a
   large quantity of Tylenol prior to presentation.   Most likely
   secondary to ischemic event from cocaine use and alcohol and Tylenol
   ingestion.  The patient required intubation secondary to worsening
   encephalopathy.  The patient has been deemed not a candidate for
   transplant by surgery given her current alcohol and cocaine use.  Will
   continue to follow hepatology recommendations.  Will continue to follow
   serologies.
   - intubated for airway protection, tolerating PSV, currently on
   propofol for sedation, unable to use anything else given liver failure
   and decreased excretion, will attempt to decrease sedation today and
   assess neurological status
   - pt continues to be alkalotic, with two repeat ABGs yesterday unclear
   etiology may be secondary to overbreathing
   - continue to check q6H LFTs and coags, trending down
   - Hep A positive, Hep A IgM negative, Hep B negative , Hep C negative,
   CMV negative, HIV negative, [**Doctor First Name **] negative, anti-smooth muscle negative,
   EBV positive but IgM negative.  Hep E, HSV, ceruloplasmin still pending
   - active T+S
   - will continue empiric antibiotics of vancomycin and zosyn (day 4) per
   hepatology for grade 3 encephalopathy, plan to discontinue when we
   extubate the patient
   - continue acyclovir for empiric coverage of HSV until serologies
   return
   - continue acetylcystine for Tylenol ingestion, will change rate to
   600mg/hr, will plan to discontinue when INR <2, and LFT
s <1000
   - continue FS BG QID and replete for hypoglycemia, on tube feeds for
   nutrition.
   - continue to monitor for evidence of cerebral edema with frequent
   neurochecks, monitoring for bradycardia and hypertension, and if any
   evidence of change will start mannitol.  As there was concern overnight
   of jerking movements, the patient will have an EEG this AM to rule out
   seizure activity
   .
   #  Coagulopathy:  Secondary to hepatic failure.  INR peaked at 15.  The
   patient received Vit K 10mg PO X1 with total of FFP x 8units with
   initial decrease in INR and up to 4.2 today.
   - continue to monitor closely with q6H labs
   - will give FFP only for very elevated INR or if procedure planned.
   .
   # Leukocytosis: Likely related to hepatitis/hepatic failure, trending
   down
   -          monitor closely
   -          on prophylactic antibiotics of vancomycin and zosyn
   .
   # Thrombocytopenia: Likely related to hepatitis/hepatic failure, stable
   today
    - monitor closely given worsening coagulopathy
   .
   FEN/Lytes: tube feeds, replete electrolytes as needed
   .
   Prophylaxis: Compression stockings
   .
   Code status: FULL CODE
   .
   Dispo: MICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2109-11-22**] 01:07 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-11-20**] 02:00 PM
   20 Gauge - [**2109-11-21**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-11-23 12:04:00 Physician Attending Progress Note
Chief Complaint: fulminant hep failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2109-11-22**] 08:15 AM
 BLOOD CULTURED - At [**2109-11-22**] 11:42 PM
   2 sets sent, one from RIJ, second from L peripheral
 URINE CULTURE - At [**2109-11-22**] 11:42 PM
 FEVER - 101.2
F - [**2109-11-23**] 12:00 AM
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-23**] 03:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-23**] 05:49 AM
   Acyclovir - [**2109-11-23**] 08:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-11-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2109-11-23**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.7
C (99.9
   HR: 99 (94 - 118) bpm
   BP: 145/75(91) {134/65(81) - 171/92(108)} mmHg
   RR: 22 (21 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
   CVP: 9 (6 - 10)mmHg
   Total In:
                                                                  4,012 mL
                                                                  1,853 mL
   PO:
   TF:
                                                                    861 mL
                                                                    470 mL
   IVF:
                                                                  2,242 mL
                                                                    993 mL
   Blood products:
   Total out:
                                                                  1,107 mL
                                                                    820 mL
   Urine:
                                                                  1,107 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,905 mL
                                                                  1,033 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 560 (414 - 560) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 13.2 L/min
   Physical Examination
   Gen: intubated and sedated
   HEENT: pupils pinpoint min responsive
   CV: RR
   Chest: CTA
   Abd distended soft
   Ext: 2+ edema
   Neuro: unresponsive to painful stimuli
   Labs / Radiology
   10.1 g/dL
   107 K/uL
   117 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   9 mg/dL
   117 mEq/L
   144 mEq/L
   28.0 %
   10.1 K/uL
        [image002.jpg]
                             [**2109-11-21**]  02:51 AM
                             [**2109-11-21**]  03:38 AM
                             [**2109-11-21**]  07:53 AM
                             [**2109-11-21**]  12:34 PM
                             [**2109-11-21**]  03:16 PM
                             [**2109-11-21**]  09:38 PM
                             [**2109-11-21**]  11:15 PM
                             [**2109-11-22**]  02:49 AM
                             [**2109-11-22**]  05:09 PM
                             [**2109-11-23**]  03:00 AM
   WBC
   8.0
   5.9
   6.4
   8.1
   10.1
   Hct
   26.8
   27.1
   27.2
   28.8
   28.0
   Plt
   102
   114
   107
   106
   107
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.8
   TCO2
   30
   27
   24
   Glucose
   199
   125
   100
   104
   91
   136
   117
   Other labs: PT / PTT / INR:37.7/62.8/4.0, CK / CKMB / Troponin-T:99//,
   ALT / AST:1566/174, Alk Phos / T Bili:97/9.5, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:216 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOGLYCEMIA
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEPATIC ENCEPHALOPATHY
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   33 yr old with fulminant hepatic failure
   1.       Hepatic failure: in setting of massive tylenol ingestion on
   top of heavy ETOH and cocaine. Serologies neg to date Her transamines
   and bili are stable to slightly improved. For now will  provide
   supportive care.
                Continue NAC for full course
 change to maintainance 600
   mg/hr
                [**Hospital1 **] LFTs and inr need to be trended.
                Encephalopathy - at high risk for cerebral edema.  Q1 hour
   neuro checks.
                Mannitol at bedside stat head CT for question
                Head CT today since not waking up.
   2.       Resp Failure: for airway protection, currently on PSV
   3.      Fevers: DDX ICU infections- line slook OK, pan cultire blood
   urine sputum, check C diff
   4.       Metabolic Alkosis: check urine lytes and OSM, trend pH, review
   med list. ? Mannitol related.
   5.       Tachycardia: DDx pain, agitation, toxins
 better today, watch
   UOP and maintain CVP 8-12
   Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2109-11-22**] 01:07 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-11-20**] 02:00 PM
   20 Gauge - [**2109-11-21**] 08:00 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: HOB 30, chlor, wake ups
   Communication:  with sister
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2109-11-24 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2109-11-23**] 11:30 PM
 FEVER - 101.1
F - [**2109-11-23**] 04:00 PM
   - Patient not awake after removing sedation
   - Head CT negative for acute IC process
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Acyclovir - [**2109-11-23**] 08:30 AM
   Vancomycin - [**2109-11-23**] 04:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-24**] 05:49 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-24**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.6
C (99.6
   HR: 102 (94 - 120) bpm
   BP: 148/76(93) {138/66(83) - 165/92(108)} mmHg
   RR: 19 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 6 (1 - 10)mmHg
   Total In:
                                                                  3,796 mL
                                                                  1,128 mL
   PO:
   TF:
                                                                    961 mL
                                                                    282 mL
   IVF:
                                                                  1,735 mL
                                                                    346 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    415 mL
   Urine:
                                                                  1,600 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,196 mL
                                                                    713 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 533 (415 - 560) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.50/31/158/23/2
   Ve: 9.8 L/min
   PaO2 / FiO2: 395
   Physical Examination
   General: intubated, sedated.
   HEENT: NCAT and equal, conjunctival hemorrhages, scleral icterus, L Eye
   edema, pinpoint pupils
   Neck: supple, no significant JVD
   Pulmonary: Lungs CTA bilaterally, coarse breath sounds bilaterally no
   wheezes, rhonchi or rales
   Cardiac: regular, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, ND, hypoactive bowel sounds.
   Extremities: No edema, 2+ radial, DP pulses b/l
   Skin: no rashes or lesions noted.
   Neurologic: Unable to assess secondary to sedation
   Labs / Radiology
   85 K/uL
   9.9 g/dL
   106 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.3 mEq/L
   12 mg/dL
   111 mEq/L
   138 mEq/L
   28.9 %
   13.3 K/uL
        [image002.jpg]
                             [**2109-11-21**]  12:34 PM
                             [**2109-11-21**]  03:16 PM
                             [**2109-11-21**]  09:38 PM
                             [**2109-11-21**]  11:15 PM
                             [**2109-11-22**]  02:49 AM
                             [**2109-11-22**]  05:09 PM
                             [**2109-11-23**]  03:00 AM
                             [**2109-11-23**]  02:01 PM
                             [**2109-11-23**]  03:56 PM
                             [**2109-11-24**]  02:47 AM
   WBC
   5.9
   6.4
   8.1
   10.1
   10.8
   13.3
   Hct
   27.1
   27.2
   28.8
   28.0
   29.6
   28.9
   Plt
   114
   107
   106
   107
   103
   85
   Cr
   0.7
   0.7
   0.7
   0.7
   0.8
   0.7
   0.7
   TCO2
   27
   24
   25
   Glucose
   100
   104
   91
   136
   117
   100
   106
   Other labs: PT / PTT / INR:35.6/63.8/3.8, CK / CKMB / Troponin-T:99//,
   ALT / AST:1160/99, Alk Phos / T Bili:98/12.9, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:216 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOGLYCEMIA
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEPATIC ENCEPHALOPATHY
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   32 yo woman with acute hepatitis and fulminant hepatic failure.
   # Acute hepatitis/fulminant hepatic failure:  Enzymes trending down but
   patient is still unresponsive despite cessation of sedation.
   Serologies negative, however according to hepatology, this could
   possibly be HSV hepatitis considering high fevers, leukocytosis and
   abdominal pain on presentation, even though serologies negative, will
   attempt to send PCR for HSV and restart acyclovir today.    T bili
   continues to rise.
   - Mucomyst until Enzymes <1000, INR<2.0
   - Continue to trend enzymes
   - Intubated for airway protection, tolerating PSV
   - Hep A positive, Hep A IgM negative, Hep B negative , Hep C negative,
   CMV negative, HIV negative, [**Doctor First Name **] negative, anti-smooth muscle negative,
   EBV positive but IgM negative.  Hep E, HSV, ceruloplasmin still pending
   - active T+S
   - continue FS BG QID and replete for hypoglycemia, on tube feeds for
   nutrition.
   - continue to monitor for evidence of cerebral edema with frequent
   neurochecks, monitoring for bradycardia and hypertension, and if any
   evidence of change will start mannitol.  EEG showed signs of
   encephalopathy
   - Head CT yesterday showed no change
   #  Coagulopathy:  Secondary to hepatic failure.  INR peaked at 15.  The
   patient received Vit K 10mg PO X1 with total of FFP x 8units with
   initial decrease in INR and up to 4.2 today.
   - continue to monitor closely with [**Hospital1 **]
   - will give FFP only for very elevated INR or if procedure planned.
   .
   # Leukocytosis: Likely related to hepatitis/hepatic failure, trending
   up and febrile.  Will send UA, urine and blood cultures today.
   -          monitor closely
   -          on prophylactic antibiotics of vancomycin and zosyn
   .
   # Thrombocytopenia: Likely related to hepatitis/hepatic failure, mildly
   decreased from yesterday
    - monitor closely given worsening coagulopathy
   .
   FEN/Lytes: tube feeds, replete electrolytes as needed
   .
   Prophylaxis: Pneumoboots
   .
   Code status: FULL CODE
   .
   Dispo: MICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2109-11-23**] 01:05 PM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-11-19**] 08:00 AM
   Multi Lumen - [**2109-11-20**] 02:00 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-11-24 10:58:00 Physician Attending Progress Note
Chief Complaint: fulminant hep failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2109-11-23**] 11:30 PM
 FEVER - 101.1
F - [**2109-11-23**] 04:00 PM
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Acyclovir - [**2109-11-23**] 08:30 AM
   Vancomycin - [**2109-11-23**] 04:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-24**] 05:49 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-11-24**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-24**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 39
C (102.2
   HR: 108 (99 - 122) bpm
   BP: 153/81(97) {139/66(83) - 165/89(107)} mmHg
   RR: 23 (18 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
   CVP: 2 (1 - 9)mmHg
   Total In:
                                                                  3,796 mL
                                                                  1,691 mL
   PO:
   TF:
                                                                    961 mL
                                                                    438 mL
   IVF:
                                                                  1,735 mL
                                                                    473 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    675 mL
   Urine:
                                                                  1,600 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,196 mL
                                                                  1,016 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 522 (415 - 533) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.50/31/158/23/2
   Ve: 11.6 L/min
   PaO2 / FiO2: 395
   Physical Examination
   Gen: intubated and sedated
   HEENT: pupils pinpoint min responsive
   CV: RR
   Chest: CTA
   Abd distended soft
   Ext: 2+ edema
   Neuro: unresponsive to painful stimuli
   Labs / Radiology
   9.9 g/dL
   85 K/uL
   106 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.3 mEq/L
   12 mg/dL
   111 mEq/L
   138 mEq/L
   28.9 %
   13.3 K/uL
        [image002.jpg]
                             [**2109-11-21**]  12:34 PM
                             [**2109-11-21**]  03:16 PM
                             [**2109-11-21**]  09:38 PM
                             [**2109-11-21**]  11:15 PM
                             [**2109-11-22**]  02:49 AM
                             [**2109-11-22**]  05:09 PM
                             [**2109-11-23**]  03:00 AM
                             [**2109-11-23**]  02:01 PM
                             [**2109-11-23**]  03:56 PM
                             [**2109-11-24**]  02:47 AM
   WBC
   5.9
   6.4
   8.1
   10.1
   10.8
   13.3
   Hct
   27.1
   27.2
   28.8
   28.0
   29.6
   28.9
   Plt
   114
   107
   106
   107
   103
   85
   Cr
   0.7
   0.7
   0.7
   0.7
   0.8
   0.7
   0.7
   TCO2
   27
   24
   25
   Glucose
   100
   104
   91
   136
   117
   100
   106
   Other labs: PT / PTT / INR:35.6/63.8/3.8, CK / CKMB / Troponin-T:99//,
   ALT / AST:1160/99, Alk Phos / T Bili:98/12.9, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:216 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOGLYCEMIA
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEPATIC ENCEPHALOPATHY
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   33 yr old with fulminant hepatic failure
   1.       Hepatic failure: in setting of massive tylenol ingestion on
   top of heavy ETOH and cocaine. Serologies neg to date Her transamines
   slightly improved, stble inr without FFP, but bili continues to rise.
   Hep wants to keep on ACV even though neg HSV IgM because she is so ill
   and ? false negative.
                Continue NAC for full course
 changedto maintainance 600
   mg/hr
                [**Hospital1 **] LFTs and inr need to be trended.
                Encephalopathy - at high risk for cerebral edema.  Q1 hour
   neuro checks.
                Mannitol at bedside stat head CT for question
                Head CT yesterday since not waking up without any cerebral
   edema
 likely dense encephaloathy
   2.       Resp Failure: for airway protection, currently on PSV
   3.      Fevers: DDX ICU infections- lines look OK, pan cultue blood
   urine sputum, check C diff . At risk for VAP but CXR OK and no sputum.
   5.       Tachycardia: DDx pain, agitation, toxins, low filling
   pressures. Had been positive everyday x days
 trend CVP maintain
   [**4-28**]. Can use NS versus Albumin
   Remaining issues as per Housestaff notes.
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2109-11-23**] 01:05 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-11-20**] 02:00 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with sister
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   Meet wife family to discuss her condition. Updated that she is still
   not waking up but this could take days and major additional issues are
   now febrile and at risk for nosocomial infections. They still are
   hopeful she can pull through and discussed this with me and the Liver
   team
   Crit care 15 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 260**] [**Last Name (NamePattern1) 261**], MD
   on:[**2109-11-24**] 17:24 ------

2109-11-25 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2109-11-24**] 09:06 AM
 FEVER - 102.2
F - [**2109-11-24**] 09:00 AM
   - Patient having decerebrate posturing with noxious stimuli
   - no spontaneous movements off sedation
   - consider repeat Head CT in AM
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Acyclovir - [**2109-11-24**] 02:04 PM
   Vancomycin - [**2109-11-25**] 05:23 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-25**] 06:24 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-11-24**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-25**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.1
C (100.6
   HR: 104 (101 - 122) bpm
   BP: 134/71(85) {134/65(84) - 167/97(111)} mmHg
   RR: 20 (18 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 0 (0 - 9)mmHg
   Total In:
                                                                  4,285 mL
                                                                    980 mL
   PO:
   TF:
                                                                    962 mL
                                                                    265 mL
   IVF:
                                                                  1,424 mL
                                                                    466 mL
   Blood products:
   Total out:
                                                                  1,315 mL
                                                                    380 mL
   Urine:
                                                                  1,315 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,970 mL
                                                                    602 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 526 (510 - 550) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 11.7 L/min
   Physical Examination
   General: intubated, sedated.
   HEENT: NCAT and equal, conjunctival hemorrhages, scleral icterus, L Eye
   edema, pinpoint pupils
   Neck: supple, no significant JVD
   Pulmonary: Lungs CTA bilaterally, coarse breath sounds bilaterally no
   wheezes, rhonchi or rales
   Cardiac: regular, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, ND, hypoactive bowel sounds.
   Extremities: No edema, 2+ radial, DP pulses b/l
   Skin: no rashes or lesions noted.
   Neurologic: Unable to assess secondary to sedation
   Labs / Radiology
   78 K/uL
   10.2 g/dL
   104 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.3 mEq/L
   15 mg/dL
   107 mEq/L
   135 mEq/L
   29.0 %
   15.4 K/uL
        [image002.jpg]
                             [**2109-11-21**]  03:16 PM
                             [**2109-11-21**]  09:38 PM
                             [**2109-11-21**]  11:15 PM
                             [**2109-11-22**]  02:49 AM
                             [**2109-11-22**]  05:09 PM
                             [**2109-11-23**]  03:00 AM
                             [**2109-11-23**]  02:01 PM
                             [**2109-11-23**]  03:56 PM
                             [**2109-11-24**]  02:47 AM
                             [**2109-11-25**]  03:35 AM
   WBC
   5.9
   6.4
   8.1
   10.1
   10.8
   13.3
   15.4
   Hct
   27.1
   27.2
   28.8
   28.0
   29.6
   28.9
   29.0
   Plt
   114
   107
   106
   107
   103
   85
   78
   Cr
   0.7
   0.7
   0.7
   0.7
   0.8
   0.7
   0.7
   0.6
   TCO2
   24
   25
   Glucose
   100
   104
   91
   136
   117
   100
   106
   104
   Other labs: PT / PTT / INR:32.5/69.4/3.4, CK / CKMB / Troponin-T:99//,
   ALT / AST:891/79, Alk Phos / T Bili:100/16.5, Lactic Acid:1.4 mmol/L,
   Albumin:3.3 g/dL, LDH:297 IU/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   32 yo woman with acute hepatitis and fulminant hepatic failure.
   # Acute hepatitis/fulminant hepatic failure:  Enzymes trending down but
   patient is still unresponsive despite cessation of sedation.
   Serologies negative, however according to hepatology, this could
   possibly be HSV hepatitis considering high fevers, leukocytosis and
   abdominal pain on presentation, even though serologies negative, will
   attempt to send PCR for HSV and restart acyclovir today.    T bili
   continues to rise.
   - Mucomyst until Enzymes <1000, INR<2.0
   - Continue to trend enzymes
   - Intubated for airway protection, tolerating PSV
   - Hep A positive, Hep A IgM negative, Hep B negative , Hep C negative,
   CMV negative, HIV negative, [**Doctor First Name **] negative, anti-smooth muscle negative,
   EBV positive but IgM negative, ceruloplasmin negative.  Hep E, HSV
   pending
   - active T+S
   - continue FS BG QID and replete for hypoglycemia, on tube feeds for
   nutrition.
   - continue to monitor for evidence of cerebral edema with frequent
   neurochecks, monitoring for bradycardia and hypertension, and if any
   evidence of change will start mannitol.  EEG showed signs of
   encephalopathy
   - Head CT today prelim results with no bleed.
   #  Coagulopathy:  Secondary to hepatic failure.  INR peaked at 15.  The
   patient received Vit K 10mg PO X1 with total of FFP x 8units with
   initial decrease in INR and up to 4.2 today.
   - continue to monitor closely with [**Hospital1 **]
   - will give FFP only for very elevated INR or if procedure planned.
   .
   # Leukocytosis: Likely related to hepatitis/hepatic failure, trending
   up and febrile.  Will send UA, urine and blood cultures today, though
   repeat cultures negative.
   -          monitor closely, perhaps central fever, though CT not
   showing changes of edema, etc
   -          on prophylactic antibiotics of vancomycin and zosyn
   .
   # Thrombocytopenia: Likely related to hepatitis/hepatic failure, mildly
   decreased from yesterday
    - monitor closely given worsening coagulopathy
   .
   FEN/Lytes: tube feeds, replete electrolytes as needed
   .
   Prophylaxis: Pneumoboots
   .
   Code status: FULL CODE
   .
   Dispo: MICU
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOGLYCEMIA
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEPATIC ENCEPHALOPATHY
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2109-11-24**] 01:02 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-11-20**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-11-26 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2109-11-25**] 08:45 PM
   from central line
 URINE CULTURE - At [**2109-11-25**] 09:00 PM
   from catheter
 FEVER - 101.4
F - [**2109-11-25**] 05:00 PM
   [**2109-11-25**]:
   -Head CT negative for ICH/infarction/edema
   -Family meeting
   -Consider Neuro consult for prognosis in AM
   -Temp 101.4
   -corrected Ca 8.5-held repletion today
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-25**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-25**] 10:00 PM
   Acyclovir - [**2109-11-26**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-11-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-26**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.2
C (99
   HR: 111 (103 - 126) bpm
   BP: 150/79(95) {140/70(86) - 177/97(113)} mmHg
   RR: 25 (17 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  3,535 mL
                                                                    616 mL
   PO:
   TF:
                                                                    965 mL
                                                                    281 mL
   IVF:
                                                                  1,920 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                  1,370 mL
                                                                    385 mL
   Urine:
                                                                  1,370 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,165 mL
                                                                    231 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 459 (459 - 540) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 12.6 L/min
   Physical Examination
   General: intubated, not responsive, off sedation for > 72hrs
   HEENT: NCAT, conjunctival hemorrhages, scleral icterus, scleral edema,
   PERRL
   Neck: supple, no significant JVD
   Pulmonary: Lungs CTA bilaterally, coarse breath sounds bilaterally no
   wheezes, rhonchi or rales
   Cardiac: regular, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, distended, hypoactive bowel sounds.
   Extremities:  anasarca 2+ radial, DP pulses b/l
   Skin: no rashes or lesions noted.
   Neurologic: not responsive to painful stimuli, PERRL, gag reflex in
   place
   Labs / Radiology
   90 K/uL
   10.4 g/dL
   107 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   18 mg/dL
   106 mEq/L
   135 mEq/L
   29.4 %
   18.1 K/uL
        [image002.jpg]
                             [**2109-11-21**]  09:38 PM
                             [**2109-11-21**]  11:15 PM
                             [**2109-11-22**]  02:49 AM
                             [**2109-11-22**]  05:09 PM
                             [**2109-11-23**]  03:00 AM
                             [**2109-11-23**]  02:01 PM
                             [**2109-11-23**]  03:56 PM
                             [**2109-11-24**]  02:47 AM
                             [**2109-11-25**]  03:35 AM
                             [**2109-11-26**]  03:27 AM
   WBC
   6.4
   8.1
   10.1
   10.8
   13.3
   15.4
   18.1
   Hct
   27.2
   28.8
   28.0
   29.6
   28.9
   29.0
   29.4
   Plt
   107
   106
   107
   103
   85
   78
   90
   Cr
   0.7
   0.7
   0.7
   0.8
   0.7
   0.7
   0.6
   0.6
   TCO2
   24
   25
   Glucose
   104
   91
   136
   117
   100
   106
   104
   107
   Other labs: PT / PTT / INR:30.5/66.7/3.1, CK / CKMB / Troponin-T:99//,
   ALT / AST:705/77, Alk Phos / T Bili:105/17.9, Differential-Neuts:68.0
   %, Band:0.0 %, Lymph:15.0 %, Mono:13.0 %, Eos:4.0 %, Lactic Acid:1.5
   mmol/L, Albumin:3.3 g/dL, LDH:297 IU/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   32 yo woman with acute hepatitis and fulminant hepatic failure.
   # Acute hepatitis/fulminant hepatic failure:  Enzymes trending down but
   patient is still unresponsive despite cessation of sedation.
   Serologies negative, however according to hepatology, this could
   possibly be HSV hepatitis considering high fevers, leukocytosis and
   abdominal pain on presentation, even though serologies negative, will
   send PCR for HSV and restart acyclovir.    T bili continues to rise.
   - Mucomyst until Enzymes <1000, INR<2.0, will discuss with hepatology
   considering today patients LFTs are < 1000, but INR still elevated to
   3.1
   - Continue to trend enzymes
   - Intubated for airway protection, tolerating PSV
   - Hep A positive, Hep A IgM negative, Hep B negative , Hep C negative,
   CMV negative, HIV negative, [**Doctor First Name **] negative, anti-smooth muscle negative,
   EBV positive but IgM negative, ceruloplasmin negative.  Hep E, HSV
   pending
   - active T+S
   - continue FS BG QID and replete for hypoglycemia, on tube feeds for
   nutrition.
   - continue to monitor for evidence of cerebral edema with frequent
   neurochecks, monitoring for bradycardia and hypertension, and if any
   evidence of change will start mannitol.  EEG showed signs of
   encephalopathy
   - Head CT yesterday with no acute process, AMS consistent with
   encephalopathy
   - Continue aggressive bowel regimen with lactulose given elevated
   ammonia level
   .
   # Leukocytosis:  Initially thought to be related to hepatitis/hepatic
   failure, however continuing to trend up and pt has been consistently
   febrile.
   - Will send amylase and lipase to rule out pancreatitis.  Will consider
   abdominal imaging if the patient does not have a BM with bowel
   regimen.  Will send C. diff toxin
   - Will resend UA, urine, sputum and blood cultures today.
   - will discontinue all antibiotics for now, and treat based on cultures
   .
   #  Coagulopathy:  Secondary to hepatic failure.  INR peaked at 15.  The
   patient received Vit K 10mg PO X1 with total of FFP x 8units with
   initial decrease in INR and down to 3.1 today.
   - continue to monitor closely
   .
   # Thrombocytopenia: Likely related to hepatitis/hepatic failure, mildly
   decreased from yesterday
    - monitor closely given worsening coagulopathy
   .
   FEN/Lytes: tube feeds, replete electrolytes as needed
   .
   Prophylaxis: Pneumoboots
   .
   Code status: FULL CODE
   .
   Dispo: MICU
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOGLYCEMIA
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEPATIC ENCEPHALOPATHY
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2109-11-26**] 12:01 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-11-20**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-11-27 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Elevated Amylase & Lipase-- tube feeds helds.
 URINE CULTURE - At [**2109-11-26**] 12:00 PM
 STOOL CULTURE - At [**2109-11-26**] 12:00 PM
   c diff
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-26**] 07:30 AM
   Vancomycin - [**2109-11-26**] 08:00 AM
   Acyclovir - [**2109-11-27**] 05:18 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-27**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 102 (102 - 129) bpm
   BP: 143/72(87) {137/71(87) - 178/93(113)} mmHg
   RR: 26 (21 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 3 (1 - 9)mmHg
   Total In:
                                                                  3,033 mL
                                                                    417 mL
   PO:
   TF:
                                                                    960 mL
   IVF:
                                                                  1,013 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  1,430 mL
                                                                    490 mL
   Urine:
                                                                  1,430 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,603 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 493 (428 - 674) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///26/
   Ve: 13.6 L/min
   Physical Examination
   General: intubated, not responsive, off sedation for > 72hrs
   HEENT: NCAT, conjunctival hemorrhages, scleral icterus, scleral edema,
   PERRL
   Neck: supple, no significant JVD
   Pulmonary: Lungs CTA bilaterally, coarse breath sounds bilaterally no
   wheezes, rhonchi or rales
   Cardiac: regular, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, distended, hypoactive bowel sounds.
   Extremities:  anasarca 2+ radial, DP pulses b/l
   Skin: no rashes or lesions noted.
   Neurologic: not responsive to painful stimuli, PERRL, gag reflex in
   place
   Labs / Radiology
   91 K/uL
   9.8 g/dL
   104 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.6 mEq/L
   18 mg/dL
   107 mEq/L
   137 mEq/L
   27.6 %
   18.8 K/uL
        [image002.jpg]
                             [**2109-11-21**]  11:15 PM
                             [**2109-11-22**]  02:49 AM
                             [**2109-11-22**]  05:09 PM
                             [**2109-11-23**]  03:00 AM
                             [**2109-11-23**]  02:01 PM
                             [**2109-11-23**]  03:56 PM
                             [**2109-11-24**]  02:47 AM
                             [**2109-11-25**]  03:35 AM
                             [**2109-11-26**]  03:27 AM
                             [**2109-11-27**]  02:34 AM
   WBC
   6.4
   8.1
   10.1
   10.8
   13.3
   15.4
   18.1
   18.8
   Hct
   27.2
   28.8
   28.0
   29.6
   28.9
   29.0
   29.4
   27.6
   Plt
   107
   106
   107
   103
   85
   78
   90
   91
   Cr
   0.7
   0.7
   0.8
   0.7
   0.7
   0.6
   0.6
   0.6
   TCO2
   24
   25
   Glucose
   91
   136
   117
   100
   106
   104
   107
   104
   Other labs: PT / PTT / INR:28.7/74.3/2.9, CK / CKMB / Troponin-T:99//,
   ALT / AST:519/77, Alk Phos / T Bili:98/17.5, Amylase / Lipase:473/785,
   Differential-Neuts:68.0 %, Band:0.0 %, Lymph:15.0 %, Mono:13.0 %,
   Eos:4.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.3 g/dL, LDH:297 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   32 yo woman with acute hepatitis and fulminant hepatic failure.
   # Acute hepatitis/fulminant hepatic failure:  Enzymes trending down but
   patient is still unresponsive despite cessation of sedation.
   Serologies negative, however according to hepatology, this could
   possibly be HSV hepatitis considering high fevers, leukocytosis and
   abdominal pain on presentation, even though serologies negative, will
   send PCR for HSV and restart acyclovir.    T bili continues to rise.
   - Mucomyst until Enzymes <1000, INR<2.0, will discuss with hepatology
   considering today patients LFTs are < 1000, but INR still elevated to
   3.1
   - Continue to trend enzymes
   - Intubated for airway protection, tolerating PSV
   - Hep A positive, Hep A IgM negative, Hep B negative , Hep C negative,
   CMV negative, HIV negative, [**Doctor First Name **] negative, anti-smooth muscle negative,
   EBV positive but IgM negative, ceruloplasmin negative.  Hep E, HSV
   pending
   - active T+S
   - continue FS BG QID and replete for hypoglycemia, on tube feeds for
   nutrition.
   - continue to monitor for evidence of cerebral edema with frequent
   neurochecks, monitoring for bradycardia and hypertension, and if any
   evidence of change will start mannitol.  EEG showed signs of
   encephalopathy
   - Head CT yesterday with no acute process, AMS consistent with
   encephalopathy
   - Continue aggressive bowel regimen with lactulose given elevated
   ammonia level
   .
   # Leukocytosis:  Initially thought to be related to hepatitis/hepatic
   failure, however continuing to trend up and pt has been consistently
   febrile.
   - Will send amylase and lipase to rule out pancreatitis.  Will consider
   abdominal imaging if the patient does not have a BM with bowel
   regimen.  Will send C. diff toxin
   - Will resend UA, urine, sputum and blood cultures today.
   - will discontinue all antibiotics for now, and treat based on cultures
   .
   #  Coagulopathy:  Secondary to hepatic failure.  INR peaked at 15.  The
   patient received Vit K 10mg PO X1 with total of FFP x 8units with
   initial decrease in INR and down to 3.1 today.
   - continue to monitor closely
   .
   # Thrombocytopenia: Likely related to hepatitis/hepatic failure, mildly
   decreased from yesterday
    - monitor closely given worsening coagulopathy
   .
   FEN/Lytes: tube feeds, replete electrolytes as needed
   .
   Prophylaxis: Pneumoboots
   .
   Code status: FULL CODE
   .
   Dispo: MICU
 RASH
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOGLYCEMIA
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEPATIC ENCEPHALOPATHY
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-11-20**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-11-28 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt having progressively more movement of BL LE, left hand, head and
   eyes, unclear if purposeful or not but definitely moving!
   - Discontinued mucomyst
   - CT ABD/Pelvis showed questionable evidence of pancreatitis on
   dictated read, however prelim report does not mention sequelae of
   pancreatitis
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-26**] 07:30 AM
   Vancomycin - [**2109-11-26**] 08:00 AM
   Acyclovir - [**2109-11-28**] 06:19 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-28**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.9
   HR: 109 (95 - 128) bpm
   BP: 161/78(99) {135/63(80) - 177/98(111)} mmHg
   RR: 28 (22 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 8 (3 - 268)mmHg
   Total In:
                                                                  1,638 mL
                                                                    168 mL
   PO:
   TF:
   IVF:
                                                                  1,058 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                    385 mL
   Urine:
                                                                  1,480 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    158 mL
                                                                   -218 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 488 (237 - 607) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 16.5 L/min
   Physical Examination
   General: intubated, not responsive, off sedation for > 72hrs
   HEENT: NCAT, conjunctival hemorrhages, scleral icterus, scleral edema,
   PERRL
   Neck: supple, no significant JVD
   Pulmonary: Lungs CTA bilaterally, coarse breath sounds bilaterally no
   wheezes, rhonchi or rales
   Cardiac: regular, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, distended, hypoactive bowel sounds.
   Extremities:  anasarca 2+ radial, DP pulses b/l
   Skin: no rashes or lesions noted.
   Neurologic: not responsive to painful stimuli, PERRL, gag reflex in
   place
   Labs / Radiology
   114 K/uL
   9.9 g/dL
   98 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   18 mg/dL
   108 mEq/L
   140 mEq/L
   27.3 %
   20.3 K/uL
        [image002.jpg]
                             [**2109-11-22**]  02:49 AM
                             [**2109-11-22**]  05:09 PM
                             [**2109-11-23**]  03:00 AM
                             [**2109-11-23**]  02:01 PM
                             [**2109-11-23**]  03:56 PM
                             [**2109-11-24**]  02:47 AM
                             [**2109-11-25**]  03:35 AM
                             [**2109-11-26**]  03:27 AM
                             [**2109-11-27**]  02:34 AM
                             [**2109-11-28**]  03:59 AM
   WBC
   6.4
   8.1
   10.1
   10.8
   13.3
   15.4
   18.1
   18.8
   20.3
   Hct
   27.2
   28.8
   28.0
   29.6
   28.9
   29.0
   29.4
   27.6
   27.3
   Plt
   107
   106
   107
   103
   85
   78
   90
   91
   114
   Cr
   0.7
   0.7
   0.8
   0.7
   0.7
   0.6
   0.6
   0.6
   0.6
   TCO2
   25
   Glucose
   91
   136
   117
   100
   106
   104
   107
   104
   98
   Other labs: PT / PTT / INR:25.7/69.0/2.5, CK / CKMB / Troponin-T:99//,
   ALT / AST:467/94, Alk Phos / T Bili:93/21.2, Amylase / Lipase:[**Telephone/Fax (1) 3303**],
   Differential-Neuts:68.0 %, Band:0.0 %, Lymph:15.0 %, Mono:13.0 %,
   Eos:4.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.3 g/dL, LDH:297 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   32 yo woman with acute hepatitis and fulminant hepatic failure.
   # Acute hepatitis/fulminant hepatic failure:  Enzymes trending down but
   patient is still unresponsive despite cessation of sedation.
   Serologies negative, however according to hepatology, this could
   possibly be HSV hepatitis considering high fevers, leukocytosis and
   abdominal pain on presentation, even though serologies negative.
   - D/C  mucomyst
   - Continue to trend enzymes
   - Intubated for airway protection, tolerating PSV
   - Hep A positive, Hep A IgM negative, Hep B negative , Hep C negative,
   CMV negative, HIV negative, [**Doctor First Name **] negative, anti-smooth muscle negative,
   EBV positive but IgM negative, ceruloplasmin negative.  Hep E, HSV
   pending
   - active T+S
   - continue FS BG QID and replete for hypoglycemia, on tube feeds for
   nutrition.
   - continue to monitor for evidence of cerebral edema with frequent
   neurochecks, monitoring for bradycardia and hypertension, and if any
   evidence of change will start mannitol.  EEG showed signs of
   encephalopathy
   - Ammonia level remains elevated, check daily
   - Continue aggressive bowel regimen with lactulose Q 4H titrate to 2
   bowel movements/day given elevated ammonia level
   .
   # Pancreatitis:  Likely explains fever and leukocytosis in setting of
   negative cultures
   -continue daily amylase/lipase
   -CT abdomen to eval for source, particularly in presence of distended
   abdomen
   .
   #  Coagulopathy:  Secondary to hepatic failure.  INR peaked at 15.  The
   patient received Vit K 10mg PO X1 with total of FFP x 8units with
   initial decrease in INR and down to 2.9 today.
   - continue to monitor daily
   .
   # Thrombocytopenia: Likely related to hepatitis/hepatic failure,
   improved from yesterday
    - monitor closely given worsening coagulopathy
   .
   FEN/Lytes: tube feeds held in setting of pancreatitis, replete
   electrolytes as needed
   .
   Prophylaxis: Pneumoboots
   .
   Code status: FULL CODE
   .
   Dispo: MICU
 PANCREATITIS, ACUTE
 RASH
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 HYPOGLYCEMIA
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 HEPATIC ENCEPHALOPATHY
 INEFFECTIVE COPING
 LIVER FUNCTION ABNORMALITIES
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-11-20**] 02:00 PM
   18 Gauge - [**2109-11-27**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-11-29 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2109-11-28**] 08:25 PM
   -patient had improved mental status-communicating and answering
   questions, still remains somewhat confused
   -Extubated and did well at [**2100**]
   -sitter ordered for suicide risk
   -Dobhoff held as patient able to swallow medication
   Allergies:
   Codeine
   Hives;
   Oxycodone Hcl/Acetaminophen (Oral)
   Hives;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-26**] 07:30 AM
   Vancomycin - [**2109-11-26**] 08:00 AM
   Acyclovir - [**2109-11-28**] 02:40 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-11-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-29**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.5
   HR: 89 (80 - 110) bpm
   BP: 137/83(95) {131/53(73) - 176/115(121)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 6 (6 - 17)mmHg
   Total In:
                                                                    735 mL
                                                                    154 mL
   PO:
   TF:
   IVF:
                                                                    450 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  1,145 mL
                                                                    540 mL
   Urine:
                                                                  1,145 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -410 mL
                                                                   -386 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 529 (238 - 529) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///24/
   NIF: -44 cmH2O
   Ve: 14.9 L/min
   Physical Examination
   General: Extubated
   HEENT: NCAT, conjunctival hemorrhages, scleral icterus, scleral edema,
   PERRL
   Neck: supple, no significant JVD
   Pulmonary:
   Cardiac: regular, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, distended, hypoactive bowel sounds.
   Extremities:  anasarca 2+ radial, DP pulses b/l
   Skin: jaundiced, no rashes or lesions noted.
   Neurologic:
   Labs / Radiology
   101 K/uL
   9.5 g/dL
   76 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.0 mEq/L
   13 mg/dL
   111 mEq/L
   141 mEq/L
   26.6 %
   14.8 K/uL
        [image002.jpg]
                             [**2109-11-22**]  05:09 PM
                             [**2109-11-23**]  03:00 AM
                             [**2109-11-23**]  02:01 PM
                             [**2109-11-23**]  03:56 PM
                             [**2109-11-24**]  02:47 AM
                             [**2109-11-25**]  03:35 AM
                             [**2109-11-26**]  03:27 AM
                             [**2109-11-27**]  02:34 AM
                             [**2109-11-28**]  03:59 AM
                             [**2109-11-29**]  03:29 AM
   WBC
   8.1
   10.1
   10.8
   13.3
   15.4
   18.1
   18.8
   20.3
   14.8
   Hct
   28.8
   28.0
   29.6
   28.9
   29.0
   29.4
   27.6
   27.3
   26.6
   Plt
   106
   107
   103
   85
   78
   90
   91
   114
   101
   Cr
   0.7
   0.8
   0.7
   0.7
   0.6
   0.6
   0.6
   0.6
   0.4
   TCO2
   25
   Glucose
   136
   117
   100
   106
   104
   107
   104
   98
   76
   Other labs: PT / PTT / INR:25.1/72.8/2.5, CK / CKMB / Troponin-T:99//,
   ALT / AST:387/94, Alk Phos / T Bili:83/20.5, Amylase / Lipase:240/478,
   Differential-Neuts:68.0 %, Band:0.0 %, Lymph:15.0 %, Mono:13.0 %,
   Eos:4.0 %, Lactic Acid:1.5 mmol/L, Albumin:3.3 g/dL, LDH:297 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Imaging: None
   Microbiology: No new data
   Assessment and Plan
   32 yo woman with acute hepatitis and fulminant hepatic failure.
   # Acute hepatitis/fulminant hepatic failure:
   - Continue to trend enzymes
   - continue FS BG QID and replete for hypoglycemia, on tube feeds for
   nutrition.
   - continue to monitor for evidence of cerebral edema with frequent
   neurochecks, monitoring for bradycardia and hypertension, and if any
   evidence of change will start mannitol.  EEG showed signs of
   encephalopathy
   - Continue aggressive bowel regimen with lactulose Q 4H titrate to 2
   bowel movements/day given elevated ammonia level
   # Pancreatitis:  Likely explains fever and leukocytosis in setting of
   negative cultures
   -NPO
   #  Coagulopathy:  Secondary to hepatic failure.  INR peaked at 15.  The
   patient received Vit K 10mg PO X1 with total of FFP x 8units with
   initial decrease in INR and down to 2.5 today.
   - continue to monitor daily
   # Thrombocytopenia: Likely related to hepatitis/hepatic failure,
   improved from yesterday
    - monitor closely given worsening coagulopathy
   FEN/Lytes: tube feeds held in setting of pancreatitis, replete
   electrolytes as needed
   Prophylaxis: Pneumoboots
   Code status: FULL CODE
   Dispo: MICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-11-20**] 02:00 PM
   18 Gauge - [**2109-11-27**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: